
*$
.subckt THS6182 inp inn out vcc vee iadj b1 b2 gnd
.MODEL D_break D
+ RS=1.0000E-1
+ CJO=1.0000E-13
+ IS=100e-15
.MODEL bi_pnp PNP
+ IS=10.000E-18
+ BF=111.69
+ NF=1.2000
+ VAF=100
+ IKF=10.010E-3
+ ISE=10.000E-18
+ NE=1.6080
+ VAR=100
+ IKR=10.000E-3
+ NK=.6913
+ RE=1
+ RB=60
+ RC=100
+ CJE=30.000E-15
+ VJE=.95
+ MJE=.13
+ CJC=30.000E-15
+ VJC=.95
+ MJC=.43
+ TF=51.578E-12
+ XTF=10.335
+ VTF=13.317
+ ITF=84.100E-3
+ TR=10.000E-9
+ AF=0.005
+ KF=1.38e-19
.MODEL bi_npn NPN
+ IS=10.000E-18
+ BF=141.50
+ VAF=100
+ IKF=10.010E-3
+ ISE=10.000E-18
+ NE=1.5718
+ VAR=50
+ IKR=10.000E-3
+ ISC=10.000E-18
+ NK=.31808
+ RE=1
+ RB=20
+ RC=100
+ CJE=20.000E-15
+ VJE=1
+ MJE=.2
+ CJC=20.000E-15
+ TF=48.439E-12
+ XTF=32.698
+ VTF=15.759
+ ITF=.12507
+ TR=10.000E-9
+ AF=0.005
+ KF=1.38e-19
* source THS6182
R_R24         N91504 EREF  1k  
E_E5         LS N110458 VCC VEE 0.5
X_U6         B1 0 MN CN SWITCH_V PARAMS:  ON=1 OFF=1e7 V_ON=2 V_OFF=0.8
Q_Q1         N64672 IPNP INN1 BI_NPN 16
C_C1         N02493 O  16p  
I_I5         LN 0 DC 334uAdc  
C_C8         N91504 N91880  1p  
R_R4         EREF O  300k  
*X_F1    VCC N01092 VCC O SCHEMATIC1_F1 
X_U11    VCC N01092 VCC O cswil params: IL=3000u
Q_Q2         N01150 INPN INN1 BI_PNP 16
R_R8         EREF N02493  1  
R_R36         N116731 VCC  6  
X_U7         B2 0 LN CN SWITCH_V PARAMS:  ON=1 OFF=1e7 V_ON=2 V_OFF=0.8
E_E6         TOP OO LS 0 -1
V_V9         N127494 VCC -6.4Vdc
R_R42         N118715 CN  1  
E_E1         N116731 N89120 TOP EREF -1
*X_F2    N64729 VEE O VEE SCHEMATIC1_F2 
X_U22    N64729 VEE O VEE cswil params: IL=3000u 
X_F10    N02086 N92690 VCC RE SCHEMATIC1_F10 
E_E7         BOT OO LS 0 1
V_V10         N127509 VEE 6.4Vdc
R_R39         VEE N117363  6  
E_E2         N121085 N117363 BOT EREF 1
R_R37         INN N15774  1250  
X_F16    N122547 0 VCC IPNP SCHEMATIC1_F16 
Q_Q3         VCC INP INPN BI_NPN 16
G_G1         OO EREF O EREF -2.68m
D_D2         N01883 N121085 D_BREAK 32
D_D1         N89120 N120856 D_BREAK 32
R_R14         N02086 N120856  1m  
R_R19         0 gnd 25k  
Q_Q4         VEE INP IPNP BI_PNP 16
D_D3         O N127494 D_BREAK 16
R_R15         N01883 N02086  1m  
X_F12    N91880 EREF OO EREF SCHEMATIC1_F12 
R_R40         N64729 N01150  200  
R_R23         RE EREF  1k  
R_R18         0 N02679  1m  
E_E4         EREF VEE VCC VEE 0.5
V_V7         INN INN1 -0.144
L_L7         N92690 OUT  4p  
R_R6         EREF OO  700  
V_V2         N110458 0 -0.62Vdc
C_C7         N15774 OUT  2300f  
X_F14    N118715 N122547 INPN VEE SCHEMATIC1_F14 
R_R41         N64672 N01092  200  
R_R43         0 MN  10k  
D_D4         N127509 O D_BREAK 16
C_C2         N02679 OUT  1.5p  
R_R44         0 LN  10k  
I_I3         VCC CN DC 500uAdc  
C_C6         EREF OO  2300f  
E_E3         N91504 EREF RE EREF 1
I_I4         MN 0 DC 167uAdc  
C_C3         0 INN  1900f  
R_R76         0 IADJ  50  
X_U66         B1 0 re re1 SWITCH_V PARAMS:  ON=0.2 OFF=50k V_ON=2 V_OFF=0.8
X_U67         B2 0 re1 0 SWITCH_V PARAMS:  ON=0.2 OFF=50k V_ON=2 V_OFF=0.8
.ends THS6182
*$

*.subckt SCHEMATIC1_F1 1 2 3 4  
*F_F1         3 4 VF_F1 2.75
*VF_F1         1 2 0V
*.ends SCHEMATIC1_F1

*.subckt SCHEMATIC1_F2 1 2 3 4  
*F_F2         3 4 VF_F2 2.75
*VF_F2         1 2 0V
*.ends SCHEMATIC1_F2

.SUBCKT cswil 1 2 3 4  
+ PARAMS: 
+ IL = 800u ;
v1  1 2 0 
Gout 3 4 value={2.75*limit(I(v1),IL,-IL)} ;
.ENDS 
*$


.subckt SCHEMATIC1_F10 1 2 3 4  
F_F10         3 4 VF_F10 1
VF_F10         1 2 0V
.ends SCHEMATIC1_F10
*$

.subckt SCHEMATIC1_F16 1 2 3 4  
F_F16         3 4 VF_F16 1
VF_F16         1 2 0V
.ends SCHEMATIC1_F16
*$

.subckt SCHEMATIC1_F12 1 2 3 4  
F_F12         3 4 VF_F12 93m
VF_F12         1 2 0V
.ends SCHEMATIC1_F12
*$

.subckt SCHEMATIC1_F14 1 2 3 4  
F_F14         3 4 VF_F14 1
VF_F14         1 2 0V
.ends SCHEMATIC1_F14
*$

.SUBCKT switch_v    1 2 3 4  
+ PARAMS: 
+ on = 1 ;
+ off= 5e9;
+ v_on=0.5;
+ v_off=0;

S1 3 4 1 2 smod
.model smod vswitch(Ron={on} Roff={off} Von={v_on} Voff={v_off})
.ENDS 

*$
