.SUBCKT RFP3055 2 1 3 ; rev 10/26/93
CA 12 8 0.540e-9
CB 15 14 0.540e-9
CIN 6 8 0.300e-9
DBODY 7 5 DBDMOD
DBREAK 5 11 DBKMOD
DPLCAP 10 5 DPLCAPMOD
EBREAK 11 7 17 18 67.9
EDS 14 8 5 8 1
EGS 13 8 6 8 1
ESG 6 10 6 8 1
EVTO 20 6 18 8 1
IT 8 17 1
LDRAIN 2 5 1e-9
LGATE 1 9 4.61e-9
LSOURCE 3 7 4.61e-9
MOS1 16 6 8 8 MOSMOD M=0.99
MOS2 16 21 8 8 MOSMOD M=0.01
RBREAK 17 18 RBKMOD 1
RDRAIN 50 16 RDSMOD 1e-4
RGATE 9 20 7.23
RIN 6 8 1e9
RSCL1 5 51 RSLVCMOD 1e-6
RSCL2 5 50 1e3
RSOURCE 8 7 RDSMOD 108e-3
RVTO 18 19 RVTOMOD 1
S1A 6 12 13 8 S1AMOD
S1B 13 12 13 8 S1BMOD
S2A 6 15 14 13 S2AMOD
S2B 13 15 14 13 S2BMOD
VBAT 8 19 DC 1
VTO 21 6 0.5
ESCL 51 50 VALUE={(V(5,51)/ABS(V(5,51)))*(PWR(V(5,51)*1e6/30,6.5))}
.MODEL DBDMOD D (IS=4.33e-14 RS=2.78e-2 TRS1=1.10e-3 TRS2=5.19e-6 CJO=3.94e-10 TT=7.63e-8)
.MODEL DBKMOD D (RS=0.676 TRS1=1.94e-3 TRS2=-1.09e-6)
.MODEL DPLCAPMOD D (CJO=0.238e-9 IS=1e-30 N=10)
.MODEL MOSMOD NMOS (VTO=4.078 KP=12 IS=1e-30 N=10 TOX=1 L=1u W=1u)
.MODEL RBKMOD RES (TC1=1.06e-3 TC2=-1.92e-6)
.MODEL RDSMOD RES (TC1=5.03e-3 TC2=1.53e-5)
.MODEL RSLVCMOD RES (TC1=2.2e-3 TC2=-5e-6)
.MODEL RVTOMOD RES (TC1=-5.02e-3 TC2=-9.16e-6)
.MODEL S1AMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=-6.5 VOFF=-3.5)
.MODEL S1BMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=-3.5 VOFF=-6.5)
.MODEL S2AMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=-2.50 VOFF=2.50)
.MODEL S2BMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=2.50 VOFF=-2.50)
.ENDS
